US07825150B2
6.10. Synthesis of (E)-N′-(1-(4-((1R,2S,3R)-1,2,3,4-tetrahydroxybutyl)-1H-imidazol-2-yl)ethylidene)nicotinohydrazide
1-[4-((1R,2S,3R)-1,2,3,4-Tetrahydroxy-butyl)-1H-imidazol-2-yl]-ethanone (215 mg, 0.93 mmol) was suspended in methanol (3 ml) and water (1 ml). Nicotinic acid hydrazide (137 mg, 1.0 mmol, 1.1 eq.) and hydrochloric acid (one drop, 12 N) were added, and the suspension was stirred at 50° C. for 48 hours. LCMS analysis indicated the formation of the product and the absence of starting material. The reaction mixture was cooled to room temperature, and partially concentrated in vacuo. The resulting white precipitate was collected and washed with water to yield the product, one apparent isomer, as a white solid: 311 mg (95%).

reactant | 1-[4-((1R,2S,3R)-1,2,3,4-Tetrahydroxy-butyl)-1H-imidazol-2-yl]-ethanone | 0.93 mmol, 215 mg | O[C@@H]([C@@H]([C@@H](CO)O)O)C=1N=C(NC1)C(C)=O | C9H14N2O5
reactant | Nicotinic acid hydrazide | 1.0 mmol, 137 mg, 1.1 eq. | C(C1=CN=CC=C1)(=O)NN | C6H7N3O
solvent | methanol | 3 ml | CO | CH4O
solvent | water | 1 ml | O | H2O
catalyst | hydrochloric acid | 12 N, one drop | Cl | ClH
product | (E)-N′-(1-(4-((1R,2S,3R)-1,2,3,4-tetrahydroxybutyl)-1H-imidazol-2-yl)ethylidene)nicotinohydrazide | O[C@@H]([C@@H]([C@@H](CO)O)O)C=1N=C(NC1)\C(\C)=N\NC(C1=CN=CC=C1)=O | C15H19N5O5
